US06649643B1
Production of 6-Bromo-2-hydroxy-N-methyl-1-naphthamide
To a ice-cooled solution of 6-Bromo-2-hydroxy-1-naphthoic acid (10.0 g) and triethylamine (26.1 mL) in anhydrous THF (300 mL) was added dropwise methanesulfonyl chloride (7.0 mL), and the mixture was stirred for 90 min at room temperature. A solution of methylamine (2M in THF; 60 mL) was added, and the reaction mixture was further stirred for overnight at room temperature. The mixture was acidified with conc. HCl and extracted with ethyl acetate. The combined organic layer was washed with brine, dried over MgSO4 followed by concentrating in vacuo. The residue was washed hexane-ethyl acetate (1:1) to give a light brown powder. The powder was dissolved in THF-MeOH-4N-NaOH (6:1:1, 80 mL), and the mixture was heated at 70° C. for 30 min. After cooling to room temperature, the mixture was acidified with conc. HCl and concentrated in vacuo. The residue was washed with water and AcOEt to give the title compound (4.61 g) as light brown powder.

reactant | 6-Bromo-2-hydroxy-1-naphthoic acid | 10.0 g | BrC=1C=C2C=CC(=C(C2=CC1)C(=O)O)O | C11H7BrO3
reactant | methanesulfonyl chloride | 7.0 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methylamine | 2M, 60 mL | CN | CH5N
reactant | HCl | Cl | ClH
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF MeOH | 4N | C1CCOC1.CO
solvent | NaOH | 80 mL | [OH-].[Na+]
solvent | triethylamine | 26.1 mL | C(C)N(CC)CC | C6H15N
product | 6-Bromo-2-hydroxy-N-methyl-1-naphthamide | 4.61 g | BrC=1C=C2C=CC(=C(C2=CC1)C(=O)NC)O | C12H10BrNO2
